US07001897B2
A solution of 3-t-butyldiphenylsilyloxy-1-(4-ethoxycarbonyl-1,3-thiazol-2-yl)azetidine (5.0 g, 10.7 mmol) (obtained as described in Reference Example 2(1)) in anhydrous tetrahydrofuran (100 ml) was added dropwise to a solution of lithium aluminum hydride (1.22 g, 32.1 mmol) in anhydrous tetrahydrofuran (250 ml) in an ice bath under an atmosphere of nitrogen and the mixture was stirred for 1.5 hours under the same conditions. After checking the completion of the reaction, magnesium sulfate decahydrate was gradually added to the reaction mixture in an ice bath. After termination of foaming, the resulting mixture was stirred at room temperature for 1 hour. Ethyl acetate was gradually added to the reaction mixture. The resulting mixture was partitioned between ethyl acetate and saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using n-hexane:ethyl acetate (3:1→1:2) as the eluant to afford 3-t-butyldiphenylsilyloxy-1-(4-hydroxymethyl-1,3-thiazol-2-yl)azetidine (3.88 g, yield 86%) as a white solid.

reactant | 3-t-butyldiphenylsilyloxy-1-(4-ethoxycarbonyl-1,3-thiazol-2-yl)azetidine | 10.7 mmol, 5.0 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1SC=C(N1)C(=O)OCC | C25H30N2O3SSi
reactant | lithium aluminum hydride | 32.1 mmol, 1.22 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | magnesium sulfate decahydrate | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Mg+2]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 3-t-butyldiphenylsilyloxy-1-(4-hydroxymethyl-1,3-thiazol-2-yl)azetidine | 3.88 g, yield 86% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1SC=C(N1)CO | C23H28N2O2SSi
